* source COMPARATOR
X_U1A         N00276 0 VCC VEE N00434 TL084
V_V1         VCC 0 15
V_V2         0 VEE 15
V_V3         N00276 0  AC 0
+SIN 0 2 10k 0 0 0
V_V4         N00708 0  AC 0
+SIN 0 2 10k 0 0 0
X_U1B         N01015 N00708 VCC VEE N00744 TL084
V_V5         N01015 0 0.5
