* source DIFFERENTIATOR
X_U1A         0 N00226 VCC VEE N00238 TL084
V_V1         VCC 0 15
V_V2         0 VEE 15
R_R1         N00226 N00238  34k TC=0,0 
R_R2         N00310 N00226  3.4k TC=0,0 
C_C1         N00357 N00310  4.7n  TC=0,0 
C_C2         N00226 N00238  0.47n  TC=0,0 
V_V3         N00357 0 DC 0Vdc AC 1Vac 
