* source FWR
X_U1A         0 N01220 VCC VEE N00208 TL084
V_V1         VCC 0 15
V_V2         0 VEE 15
V_V3         N01056 0  AC 0
+SIN 0 2 1k 0 0 0
D_D1         N01255 N00208 D1N4148 
R_R1         N01056 N01220  1k TC=0,0 
R_R2         N01220 N01255  1k TC=0,0 
R_R3         N01220 N01336  1k TC=0,0 
D_D2         N00208 N01336 D1N4148 
X_U1B         N01336 N01468 VCC VEE N01472 TL084
R_R4         N01255 N01468  1k TC=0,0 
R_R5         N01468 N01472  1k TC=0,0 
