* source HWR
X_U1A         0 N00298 VCC VEE N00402 TL084
V_V1         VCC 0 15
V_V2         0 VEE 15
V_V3         N00291 0  AC 0
+SIN 0 2 1k 0 0 0
R_R1         N00291 N00298  1k TC=0,0 
X_D1         N00298 N00402 BAT54/PLP
R_R2         N00298 N00453  1k TC=0,0 
X_D2         N00402 N00453 BAT54/PLP
