* source INSAMP
X_U1A         N00433 N00811 VCC VEE N00722 TL084
X_U1B         N00437 N00905 VCC VEE N00593 TL084
X_U2B         N00578 N00677 VCC VEE N00665 TL084
V_V1         VCC 0 15
V_V2         0 VEE 15
R_R1         N00593 N00578  1k TC=0,0 
R_R2         0 N00578  1k TC=0,0 
R_R3         N00677 N00665  1k TC=0,0 
R_R4         N00722 N00677  1k TC=0,0 
R_R5         N00811 N00722  20k TC=0,0 
R_R6         N00905 N00593  20k TC=0,0 
R_R7         N00905 N00811  10k TC=0,0 
V_V4         N00433 0 0.5
V_V5         N00437 0 DC 0Vdc AC 1Vac 
