* source INVADDER
X_U1A         0 N00267 VCC VEE N00291 TL082
V_V1         VCC 0 15
V_V2         0 VEE 15
R_R1         N00341 N00267  1k TC=0,0 
R_R2         N00267 N00291  2k TC=0,0 
R_R3         N00435 N00267  1k TC=0,0 
V_V3         N00341 0  AC 0
+SIN 0 1 1k 0 0 0
V_V4         N00435 0  AC 0
+SIN 0 3 1k 0 0 0
