* source LINEQN
V_V1         VCC 0 15
V_V2         0 VEE 15
R_R6         N01490 N01211  6k TC=0,0 
X_U1C         0 N01211 VCC VEE N01219 TL084
R_R5         N01211 N01219  12k TC=0,0 
V_V5         N01490 0 1
R_R7         N01615 N01211  2k TC=0,0 
V_V6         N01615 0 1
V_V8         N03074 0 1
R_R8         N02966 N02974  12k TC=0,0 
V_V7         N02998 0 2
R_R9         N02998 N02966  3k TC=0,0 
X_U2C         0 N02966 VCC VEE N02974 TL084
R_R10         N03074 N02966  4k TC=0,0 
R_R11         N03781 N03789  10k TC=0,0 
X_U3C         N03937 N03781 VCC VEE N03789 TL084
R_R12         N01219 N03937  10k TC=0,0 
R_R13         N02974 N03781  10k TC=0,0 
R_R14         0 N03937  10k TC=0,0 
