* source NONINVAMP
X_U1A         N00497 N00264 VCC VEE N00279 TL082
V_V1         VCC 0 15
V_V2         0 VEE 15
R_R1         N00264 N00279  1k TC=0,0 
R_R2         0 N00264  1k TC=0,0 
V_V3         N00497 0  AC 0
+SIN 0 5 1k 0 0 0
