* source PHOSC
X_U1A         0 N00466 VCC VEE N00220 TL084
V_V1         VCC 0 15
V_V2         0 VEE 15
R_R1         0 N00224  6.5k TC=0,0 
C_C1         N00220 N00224  0.1u  TC=0,0 
R_R2         N00391 N00466  26k TC=0,0 
R_R3         N00466 N00220  900k TC=0,0 
C_C2         N00224 N00302  0.1u  TC=0,0 
R_R4         0 N00302  6.5k TC=0,0 
R_R5         0 N00391  6.5k TC=0,0 
C_C3         N00302 N00391  0.1u  TC=0,0 
