* source TIMEMARKER
X_U1A         N00157 0 VCC VEE N00490 TL084
V_V1         VCC 0 15
V_V2         0 VEE 15
V_V3         N00157 0  AC 0
+SIN 0 2 1k 0 0 0
C_C1         N00490 N00477  0.1u  TC=0,0 
R_R1         0 N00477  1k TC=0,0 
D_D1         N00477 N00494 D1N4001 
R_R2         0 N00494  1k TC=0,0 
