* source VIBJT
X_U1A         N00450 N00351 N00189 0 N00181 TL084
V_V1         N00189 0 15
R_R1         N00181 N01126  153 TC=0,0 
V_V2         N00268 0 10
R_R2         N00351 N00322  15k TC=0,0 
R_R3         N00268 N00450  49.3k TC=0,0 
R_R4         0 N00450  500 TC=0,0 
R_R5         0 N00322  100m TC=0,0 
R_R6         N00568 N00268  40m TC=0,0 
Q_Q1         N00568 N01126 N00322 Q2N5882 
