* source VIGND
X_U1A         N00318 N00333 VCC VEE N00470 TL084
V_V1         VCC 0 15
V_V2         0 VEE 15
V_V3         N00322 0 1
R_R1         N00322 N00318  10k TC=0,0 
R_R3         0 N00333  10k TC=0,0 
R_R4         N00333 N00470  10k TC=0,0 
R_R5         0 N00318  11k TC=0,0 
R_R2         N00318 N00470  10k TC=0,0 
